US04039589
A solution of 37.5 g. of propiophenone in 200 ml. of dry ether is added dropwise to a -10° C. Grignard solution prepared from 13.6 g. of magnesium turnings and 126 g. of 3-trifluoromethyl-bromobenzene in 182 ml. of dry ether. The reaction mixture is stirred at 0° C. for 30 minutes, thereafter refluxed for 1 hour. The mixture is cooled to 0° C., and the Grignard complex is decomposed with a 10% aqueous ammonium chloride solution. The etheral phase is separated, washed until neutral, and dried over anhydrous sodium sulfate. The solvent is evaporated, and the residual oil is subjected to fractional distillation in vacuo. This way 57.3 g. of 3-trifluoromethyl-α-ethyl-benzhydrol are obtained; b.p.: 106°-108° C./0.03 mmHg.

reactant | propiophenone | C(CC)(=O)C1=CC=CC=C1 | C9H10O
reactant | magnesium | [Mg] | Mg
reactant | 3-trifluoromethyl-bromobenzene | FC(C=1C=C(C=CC1)Br)(F)F | C7H4BrF3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 3-trifluoromethyl-α-ethyl-benzhydrol | FC(C=1C=C(C(C2=CC=CC=C2)(O)CC)C=CC1)(F)F | C16H15F3O
